US03950310
A solution of 130 grams (2.65 moles) sodium cyanide in 200 ml of water was placed in a four-necked flask, equipped with a thermowell, mechanical stirrer, electrically heated addition funnel and a condenser. A solution of 200 grams (1.15 mole) of p-xylylene chloride in 200 ml of dimethyl formamide was added dropwise with constant stirring and such a rate as to maintain the reaction temperature at 60°-65°C. The p-xylylene chloride solution was maintained at about 60°C. to prevent solid precipitation. The reaction was exothermic and addition took 2 hours. At the completion of the addition, the temperature was maintained by external heating for an additional hour. The mixture was then poured into 2 liters of water. The precipitated solid was filtered and washed with an additional liter of water. The product yield was 85% (ca. 152 g.) of para-phenylene diacetonitrile having a melting point of about 95°-97°C.

reactant | sodium cyanide | 2.65 moles, 130 grams | [C-]#N.[Na+]
reactant | p-xylylene chloride | 1.15 mole, 200 grams | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
reactant | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | para-phenylene diacetonitrile | ca. 152 g, yield was 85% | C1(=CC=C(C=C1)CC#N)CC#N | C10H8N2
